US08304425B2
To a solution of 3-carboxymethyl-indole-1-carboxylic acid tert-butyl ester (1.35 g, 4.95 mmol) in anhydrous DCM (40 mL) was added CDI (0.98 g, 6.03 mmol) at room temperature. The mixture was stirred at room temperature for 2 h, then cooled to 0° C. and washed with cold aqueous NaHCO3. The DCM layer was dried over MgSO4, filtered and concentrated. The residue was dissolved in DCM (10 mL) and toluene (10 mL) and evaporated. To this residue was added anhydrous THF (20 mL)/DMF (20 mL), DIPEA (2.5 mL, 14.85 mmol), followed by 2-amino-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone HCl salt (1.26 g, 5.04 mmol). The mixture was stirred overnight at room temperature. The reaction mixture was partitioned between EtOAc (200 mL) and water (150 mL). The EtOAc layer was washed with aqueous NaHCO3, brine, dried over MgSO4, concentrated and used for the next step directly. To a suspension of the residue in DCM (20 mL) and DMF (10 mL) was added (Boc)2O (3.23 g, 14.85 mmol) and DMAP (cat). The reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated and the residue purified by silica gel column chromatography (eluent: 3/1 then 2/1 hexane/EtOAc). 3-(2-{tert-butoxycarbonyl-[2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-amino}-2-oxo-ethyl)-indole-1-carboxylic acid tert-butyl ester was obtained as a pale yellow solid (2.10 g, 74% for two steps). 1H NMR (400 MHz, DMSO-d6) δ: 8.44 (s, 1H), 8.05 (d, J=8.0 Hz, 1H), 7.85 (d, J=8.0 Hz, 1H), 7.70 (s, 1H), 7.54 (d, J=8.0 Hz, 1H), 7.30 (m, 1H), 7.25 (m, 1H), 7.13 (dd, J1=J2=8.0 Hz, 1H), 7.01 (d, J=6.8 Hz, 1H), 5.01 (s, 2H), 4.37 (s, 2H), 4.24 (t, J=6.4 Hz, 2H), 2.95 (t, J=6.4 Hz, 2H), 2.15 (m, 2H), 1.62 (s, 9H), 1.39 (s, 9H). LCMS: m/e 572.20 [M+H].

reactant | 3-carboxymethyl-indole-1-carboxylic acid tert-butyl ester | 4.95 mmol, 1.35 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C15H17NO4
reactant | CDI | 6.03 mmol, 0.98 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 14.85 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone HCl salt | 5.04 mmol, 1.26 g | Cl.NCC(=O)C1=CN2CCCC3=CC=CC1=C23
reactant | (Boc)2O | 14.85 mmol, 3.23 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2-{tert-butoxycarbonyl-[2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-amino}-2-oxo-ethyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC(=O)N(CC(=O)C1=CN2CCCC3=CC=CC1=C23)C(=O)OC(C)(C)C | C33H37N3O6
